US04246429
A mixture of 8.62 parts of 2,3,6-trichloro-α-[(2-methylphenyl)amino]benzeneacetic acid, 25 parts of a sodium hydroxide solution 1 M in water and 100 parts of distilled water is stirred for 30 minutes at room temperature. The resulting solution is evaporated to dry, methylbenzene is added and evaporation is continued. The residue is suspended in 2,2'-oxybispropane. The product is filtered off and crystallized from acetonitrile, yielding 7 parts of sodium 2,3,6-trichloro-α-[(2-methylphenyl)amino]benzeneacetate; mp. 203.1° C.

reactant | 2,3,6-trichloro-α-[(2-methylphenyl)amino]benzeneacetic acid | ClC1=C(C(=CC=C1Cl)Cl)C(C(=O)O)NC1=C(C=CC=C1)C | C15H12Cl3NO2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | water | O | H2O
product | sodium 2,3,6-trichloro-α-[(2-methylphenyl)amino]benzeneacetate | ClC1=C(C(=CC=C1Cl)Cl)C(C(=O)[O-])NC1=C(C=CC=C1)C.[Na+] | InChI=1S/C15H12Cl3NO2.Na/c1-8-4-2-3-5-11(8)19-14(15(20)21)12-9(16)6-7-10(17)13(12)18;/h2-7,14,19H,1H3,(H,20,21);/q;+1/p-1
